US09193693B2
Step 4. 2-Phenyl-3-(4-(4-(trifluoromethyl)phenyl)piperazin-1-yl)quinoxaline-6-carboxylic acid
A solution of methyl 2-phenyl-3-(4-(4-(trifluoromethyl)phenyl)piperazin-1-yl)quinoxaline-6-carboxylate (137.7 mg, 0.28 mmol, 1.00 equiv) in methanol/THF (1:1) (10 mL), and sodium hydroxide (56 mg, 1.40 mmol, 5.00 equiv) in water (3 mL) were placed in a 50-mL round bottom flask and stirred for 2 h at 40° C. in an oil bath. The mixture was concentrated by vacuum and filtered. The resulting solution was concentrated under vacuum, and the resulting solid washed with DCM/MeOH (5:1) resulting in 45 mg (33%) of 2-phenyl-3-(4-(4-(trifluoromethyl)phenyl)piperazin-1-yl)quinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 2-phenyl-3-(4-(4-(trifluoromethyl)phenyl)piperazin-1-yl)quinoxaline-6-carboxylate | 0.28 mmol, 137.7 mg, 1.00 equiv | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2N=C1N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F)C(=O)OC | C27H23F3N4O2
reactant | sodium hydroxide | 1.40 mmol, 56 mg, 5.00 equiv | [OH-].[Na+]
solvent | methanol THF | 10 mL | CO.C1CCOC1
solvent | water | 3 mL | O | H2O
product | 2-Phenyl-3-(4-(4-(trifluoromethyl)phenyl)piperazin-1-yl)quinoxaline-6-carboxylic acid | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2N=C1N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F)C(=O)O | C26H21F3N4O2
